US08604069B2
(A-53-2) 4,4-Dimethylvaleric acid
4,4-Dimethyl-2-pentenoic acid (343 g), methanol/tetrahydrofuran=3/1 (150 mL) and ethanol (1240 mL) were mixed. After an addition of 10 w/w % palladium on activated carbon (31 g) to the mixture, the mixture was stirred at RT for 10.5 hr under hydrogen atmosphere (1 atm). The 10 w/w % palladium on activated carbon was filtered off and the filtrate was concentrated in vacuo to give the title compound (354 g) as a crude product.

reactant | 4,4-Dimethyl-2-pentenoic acid | 343 g | CC(C=CC(=O)O)(C)C | C7H12O2
reactant | methanol tetrahydrofuran | CO.O1CCCC1
catalyst | palladium on activated carbon | 31 g | [Pd] | Pd
solvent | ethanol | 1240 mL | C(C)O | C2H6O
product | 4,4-Dimethylvaleric acid | 354 g | CC(CCC(=O)O)(C)C | C7H14O2
